US05627215
(E)-1-Ethyl-14-propyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride
A mixture of 0.5 g (0.745 mmol) of (E)-1-ethyl-14-propyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene and 10 ml of 3N methanolic hydrochloric acid is stirred for 15 h at room temperature, and then 20 ml of diethyl ether are added. Working up analogously to Example 1 yields the title compound, m.p. >260° C. 1H-NMR (D2O): δ0.96(t,3H); 1.28(t,3H); 1.63-1.76(m,2H); 2.05-2.16(m,4H); 2.97-3.18(m,12H); 3.77(d,4H); 6.05-6.07(m,2H).

reactant | (E)-1-ethyl-14-propyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene | 0.745 mmol, 0.5 g | C(C)N(CCCN(C\C=C\CN(CCCN(C(=O)OC(C)(C)C)CCC)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C35H66N4O8
reactant | hydrochloric acid | 3N, 10 ml | Cl | ClH
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | (E)-1-Ethyl-14-propyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride | Cl.Cl.Cl.Cl.C(C)NCCCNC\C=C\CNCCCNCCC | InChI=1S/C15H34N4.4ClH/c1-3-9-17-13-8-15-19-11-6-5-10-18-14-7-12-16-4-2;;;;/h5-6,16-19H,3-4,7-15H2,1-2H3;4*1H/b6-5+;;;;
